US09301951B2
Intermediate 81c: tert-butyl 4-(2-(N-methyl-3-((4-(piperidin-1-yl)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzamido)ethyl)-piperazine-1-carboxylate
Into a 50-mL round-bottom flask, was placed a solution of 3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)-benzoic acid (100 mg, 0.17 mmol, 1.00 equiv) in dichloromethane (5 mL), EDC.HCl (48 mg, 0.25 mmol, 1.50 equiv), 4-dimethylaminopyridine (31 mg, 0.25 mmol, 1.50 equiv). The mixture was stirred for 5 min at room temperature. To the above was added tert-butyl 4-(2-(methylamino)ethyl)piperazine-1-carboxylate (53 mg, 0.22 mmol, 1.30 equiv). The resulting solution was stirred for 2 h at 25° C. The resulting solution was diluted with 5 mL of water. The resulting solution was extracted with 2×5 mL of dichloromethane and the organic layers combined. The resulting mixture was washed with 1×5 mL of water and 2×5 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product (100 mg) was purified by Prep-HPLC with the following conditions (1#-Waters 2767-3): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, WATER WITH 0.05% TFA and CH3CN (25% CH3CN up to 45% in 6 min); Detector, Waters2545 UvDector 254&220 nm. 33.6 mg product was obtained. This resulted in 33.6 mg (21%) of PH-RDX-002-1129-0 as a light yellow solid. MS (ES, m/z): 828 [M−+H]+. H-NMR (300 MHz, CD3OD, ppm) 8.98 (d, J=5.1 Hz, 1H), 8.75 (d, J=9.0 Hz, 1H), 8.46 (s, 1H), 8.18˜8.11 (m, 3H), 7.89˜7.53 (m, 8H), 4.72 (s, 2H), 4.00˜3.11 (m, 16H), 3.08 (s, 3H), 2.04 (d, J=4.8 Hz, 4H), 1.83 (d, J=5.7 Hz, 2H), 1.49 (s, 9H)

reactant | 3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)-benzoic acid | 0.17 mmol, 100 mg, 1.00 equiv | N1(CCCCC1)C1=CC(=C(C=C1)NC(=O)C=1C=C(C(=O)O)C=CC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O | C33H29F3N4O4
reactant | EDC.HCl | 0.25 mmol, 48 mg, 1.50 equiv | CCN=C=NCCCN(C)C.Cl
reactant | tert-butyl 4-(2-(methylamino)ethyl)piperazine-1-carboxylate | 0.22 mmol, 53 mg, 1.30 equiv | CNCCN1CCN(CC1)C(=O)OC(C)(C)C | C12H25N3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.25 mmol, 31 mg, 1.50 equiv | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 5 mL | O | H2O
product | tert-butyl 4-(2-(N-methyl-3-((4-(piperidin-1-yl)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzamido)ethyl)-piperazine-1-carboxylate | 33.6 mg | CN(C(C1=CC(=CC=C1)C(NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)=O)=O)CCN1CCN(CC1)C(=O)OC(C)(C)C | C45H52F3N7O5
